US05196224
To 12 g of freshly distilled 3-(4-methyl-pent-3-enyl)-thiophene dissolved in 150 ml ethanol was added 1 g of 5% Pd/C hydrogenation catalyst. The mixture was hydrogenated at atmospheric pressure in 72 hours. The catalyst was filtered of, the solvent evaporated and the residue distilled, yielding 8 g (66%) 3-(4-methylpentyl)-thiophene. Boiling point: 65°-66° C./0.13 kPa. nD20 =1.4962.

reactant | 3-(4-methyl-pent-3-enyl)-thiophene | CC(=CCCC1=CSC=C1)C | C10H14S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 3-(4-methylpentyl)-thiophene | 8 g, 66% | CC(CCCC1=CSC=C1)C | C10H16S
